US05935908
2-[[[(1-{6-[(2,2-Dichlorocyclopropyl)methoxy]-5-fluoro-1-methylindazol-3-yl}ethylidene)amino]oxy]methyl]-α-(methoxymethylene)phenylacetic Acid Methyl Ester (Compound No. 3.77)
A solution of 0.9 g of 1-[6-(2,2-dichlorocyclopropylmethoxy)-5-fluoro-1-methyl-1H-indazol-3-yl]-ethanone oxime in 10 ml of N,N-dimethylformamide is added dropwise to a suspension of 0.2 g of sodium hydride in 15 ml of N,N-dimethylformamide and the reaction mixture is stirred at room temperature for 15 minutes. Then 1.04 g of 2-(α-bromo-o-tolyl)-3-methoxyacrylic acid methyl ester in 10 ml of N,N-dimethylformamide are added dropwise and the reaction mixture is stirred at room temperature for a further 3 hours. The mixture is then acidified with acetic acid and concentrated by evaporation in vacuo at approx. 50° C. The residue is dissolved in ethyl acetate and the solution is washed twice with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation in vacuo. Purification by flash chromatography (silica gel, ethyl acetate/hexane 1:1) yields the title compound having a melting point of 138-140° C.

reactant | 1-[6-(2,2-dichlorocyclopropylmethoxy)-5-fluoro-1-methyl-1H-indazol-3-yl]-ethanone oxime | 0.9 g | ClC1(C(C1)COC1=C(C=C2C(=NN(C2=C1)C)C(C)=NO)F)Cl | C14H14Cl2FN3O2
reactant | sodium hydride | 0.2 g | [H-].[Na+]
reactant | 2-(α-bromo-o-tolyl)-3-methoxyacrylic acid methyl ester | 1.04 g | COC(C(=COC)C1=C(C=CC=C1)CBr)=O | C12H13BrO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 2-[[[(1-{6-[(2,2-Dichlorocyclopropyl)methoxy]-5-fluoro-1-methylindazol-3-yl}ethylidene)amino]oxy]methyl]-α-(methoxymethylene)phenylacetic Acid Methyl Ester | COC(C(=COC)C1=C(C=CC=C1)CON=C(C)C1=NN(C2=CC(=C(C=C12)F)OCC1C(C1)(Cl)Cl)C)=O | C26H26Cl2FN3O5
